US04448962
1-ethyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)quinoline-3-carboxylic acid 3.2 g was dissolved in 20 ml of glacial acetic acid, 2.0 g of anhydrous acetic acid was added thereto and the mixture was heated at 90°-100° C. for 2 hours with stirring. After cooling, 50 ml of water was added thereto. The precipitated crystals were collected by filtration, washed and dried. The crystals were recrystallized from dimethylformamide to obtain 3.5 g (97%) of 1-ethyl-6-fluoro-1,4-dihydro-4-oxo-7-(4-acetyl-1-piperazinyl)quinoline-3-carboxylic acid as colorless needles.

reactant | 1-ethyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)quinoline-3-carboxylic acid | 3.2 g | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | C16H18FN3O3
reactant | water | 50 ml | O | H2O
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 2.0 g | C(C)(=O)O | C2H4O2
product | 1-ethyl-6-fluoro-1,4-dihydro-4-oxo-7-(4-acetyl-1-piperazinyl)quinoline-3-carboxylic acid | 3.5 g, 97% | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)C(C)=O)F)=O)C(=O)O | C18H20FN3O4
